US05578604
0.93 g of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-5-vinyl-3-quinolinecarboxylic acid, 0.51 g of 4-ethyl-1,4-piperazine and 0.34 g of DABCO are refluxed for 2.5 hours in a mixture of 6 ml of acetonitrile and 3 ml of dimethylformamide. At room temperature, the reaction mixture is treated with 15 ml of water, and the product is filtered off with suction, washed with water and dried. 0.79 g of 1-cyclopropyl-7-(4-ethyl-1-piperazinyl)-6,8-difluoro-1,4-dihydro-4-oxo-5-vinyl-3-quinolinecarboxylic acid is obtained.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-5-vinyl-3-quinolinecarboxylic acid | 0.93 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C=C)=O)C(=O)O | C15H10F3NO3
reactant | DABCO | 0.34 g | C1CN2CCN1CC2 | C6H12N2
reactant | water | 15 ml | O | H2O
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-cyclopropyl-7-(4-ethyl-1-piperazinyl)-6,8-difluoro-1,4-dihydro-4-oxo-5-vinyl-3-quinolinecarboxylic acid | 0.79 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CCN(CC1)CC)F)C=C)=O)C(=O)O | C21H23F2N3O3
